US04359420
285 mg (1 mmol) of ethyl 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate and 50 mg of potassium cyanide are stirred at 60° C. for 72 hours in 10 ml of 2-propanol. Then, the mixture is concentrated on a rotary evaporator, the residue is partitioned between water and chloroform, extracted twice with chloroform, the chloroform phase is dried over magnesium sulphate and evaporated. There is obtained isopropyl 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine 3-carboxylate of melting point 190°-192° C. This product is uniform according to thin-layer chromatography.

reactant | ethyl 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate | 1 mmol, 285 mg | CN1CC=2N(C3=C(C1=O)C=CC=C3)C=NC2C(=O)OCC | C15H15N3O3
reactant | potassium cyanide | 50 mg | [C-]#N.[K+]
solvent | 2-propanol | 10 ml | CC(C)O | C3H8O
product | isopropyl 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine 3-carboxylate | CN1CC=2N(C3=C(C1=O)C=CC=C3)C=NC2C(=O)OC(C)C | C16H17N3O3
